data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_171047_1,[C:1]([N:4]([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])[N:6]([H:10])[H:11])(/[C:7](=[C:8](\[C:3]([H:19])([H:20])[H:21])[H:15])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:4]([N:6]([H:10])[H:11])[C@@:7]1([C@@:8]([C:3]([H:19])([H:20])[H:21])([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])[H:15])[H:14],73.20917000000264
MR_282627_0,[C:1]([C:2]([O:4][H:8])=[O:6])([C:3](=[O:7])[H:11])([O:5][H:9])[H:10]>>[C:1](=[C:2](\[O:4][H:8])[O:6][C:3](=[O:7])[H:11])(\[O:5][H:9])[H:10],56.18321249997194
MR_376031_1,[C:1]([C:2]([C:7]([H:24])([H:25])[H:29])([C:8]([H:26])([H:27])[H:28])[H:11])([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[N:9]([C:4]([H:15])([H:16])[H:17])[O:10][C:3]([H:12])([H:13])[H:14]>>[C:1]([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])([N:9]([C:2]([C:7]([H:24])([H:25])[H:29])([C:8]([H:26])([H:27])[H:28])[H:11])[C:4]([H:15])([H:16])[H:17])[O:10][C:3]([H:12])([H:13])[H:14],71.7634099999789
MR_19862_0,[C:1]([N:4]([C:6](=[C:5]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])[H:8])[H:7])([H:9])([H:10])[H:11]>>[C:1](/[N:4]=[C:6](/[C:5]([C:2]([H:12])([H:13])[H:17])([C:3]([H:14])([H:15])[H:16])[H:7])[H:8])([H:9])([H:10])[H:11],67.26737249998749
MR_398296_1,[C:1]([C:4]([C:2](=[C:3]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[N:5]([H:9])[H:10])=[O:8])([H:15])([H:16])[H:17]>>[C:1]([C:4]([C:3](=[C:2]([N:5]([H:9])[H:10])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])=[O:8])([H:15])([H:16])[H:17],69.07959249997774
MR_592206_0,[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:5](/[N:8]1[C:3]([N:4]([H:11])[H:12])([O:7][H:9])[C:6]1([H:17])[H:18])[H:13])[H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])([N:4]([H:11])[H:12])(/[C:5](=[N:8]\[C:3](=[C:6]([H:17])[H:18])[O:7][H:9])[H:13])[H:10],62.7286649999968
MR_703758_1,[C:1](/[C:8](=[C:2](\[C:3](=[C:4]([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])[N:5]([H:11])[H:12])[O:9][H:10])[H:17])([H:18])([H:19])[H:20]>>[C:1]([C:8]1([H:17])[C:2]([O:9][H:10])=[C:3]([N:5]([H:11])[H:12])[C:4]1([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])([H:18])([H:19])[H:20],41.27318500002076
MR_616058_0,[C:1](/[C:3]([N:5]([H:12])[H:13])=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:16])([N:4]([H:10])[H:11])(/[C:6](=[N:8]\[H:14])[H:15])[H:9]>>[C:1](=[C:3](/[N:5]([H:12])[H:13])[C:7]([C:2]([H:17])([H:18])[H:19])(/[C:6](=[N:8]\[H:14])[H:15])[H:16])(\[N:4]([H:10])[H:11])[H:9],68.2814124999598
MR_501127_0,[C:1]([C:4](=[C:5]([C:2]([H:14])([H:15])[H:17])[C:3]([H:16])([H:18])[H:19])[O:7][H:9])(/[C:6](=[N:8]\[H:10])[H:13])([H:11])[H:12]>>[C:1](=[C:4]([C:5]([C:2]([H:14])([H:15])[H:17])([C:3]([H:16])([H:18])[H:19])/[C:6](=[N:8]\[H:10])[H:13])[O:7][H:9])([H:11])[H:12],69.63681249999766
MR_66961_2,[C:1]1([H:12])([H:13])[C:5]([N:3]([N:6]([H:10])[H:11])[H:8])([N:4]([C:2]([H:14])([H:15])[H:16])[H:9])[O:7]1>>[C:1]([N:3]([N:6]([H:10])[H:11])[H:8])([C:5]([N:4]([C:2]([H:14])([H:15])[H:16])[H:9])=[O:7])([H:12])[H:13],55.489825000010455
MR_75445_0,[C:1]([C:5](/[C:6]([C:2]([H:13])([H:14])[H:15])=[N:8]\[H:9])[C:7]([C:3]([H:17])([H:18])[H:19])[C:4]([H:16])([H:20])[H:21])([H:10])([H:11])[H:12]>>[C:1]([C:5]1=[C:6]([C:2]([H:13])([H:14])[H:15])[N:8]([H:9])[C:7]1([C:3]([H:17])([H:18])[H:19])[C:4]([H:16])([H:20])[H:21])([H:10])([H:11])[H:12],43.59305250001341
MR_500635_1,[C:1]1([C:4]([H:14])([H:15])[H:16])([O:9][H:10])[C:3]([H:12])([H:13])[C:2]([C:5]([H:17])([H:18])[H:19])([C:6]([H:20])([H:21])[H:22])[N:7]([H:11])[O:8]1>>[C:1]([C:3]([C:2]([C:5]([H:17])([H:18])[H:19])([C:6]([H:20])([H:21])[H:22])[N:7]([O:8][H:10])[H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])=[O:9],39.03426499996641
MR_591061_2,[C:1]([C:3](/[N:8]=[C:4](/[C:2]([H:17])([H:18])[H:19])[N:7]([H:15])[H:16])=[O:9])([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[H:10]>>[C:1]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])([N:8]1[C:3](=[O:9])[C@@:4]1([C:2]([H:17])([H:18])[H:19])[N:7]([H:15])[H:16])[H:10],58.04437750001696
MR_165587_0,[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([O:4][H:8])[O:5][H:9])([O:6][H:10])[O:7][H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([O:4][H:8])[O:7][H:11])([O:5][H:9])[O:6][H:10],71.04115749998329
MR_529697_2,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5](=[C:6]([H:18])[H:19])[H:11])=[O:9])([O:7][C:2]([H:12])([H:13])[H:14])[O:8][H:10]>>[C:1]1([C:3]([H:15])([H:16])[H:17])([O:8][H:10])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:11])([O:7][C:2]([H:12])([H:13])[H:14])[O:9]1,53.23898249998621
MR_120614_0,[C:1]([C:2]([N:9]=[C:7]([C:5]([H:20])([H:21])[H:22])[C:6]([H:19])([H:23])[H:24])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[O:8][H:10]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:2]([H:11])([H:12])[N:9]1[C:7]([C:5]([H:20])([H:21])[H:22])([C:6]([H:19])([H:23])[H:24])[O:8][H:10],72.95503250000223
MR_679716_0,[C:1]([N:3](/[C:4](=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:10])[O:6][H:9])[N:7]=[O:8])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:4](\[C@@:5]([C:2]([H:14])([H:15])[H:16])([N:7]=[O:8])[H:10])[O:6][H:9])([H:11])([H:12])[H:13],30.419944999992907
